US06465513B1
Step A: Preparation of Methyl 2-(3-Methoxycarbonyladamant-1-ylcarbonylamino)-3-[4-(N,N-dimethylaminocarbonylmethyl)piperazin-1-yl]propionate
Methyl 2-(3-Methoxycarbonyladamant-1-ylcarbonylamino)-3-(piperazin-1-yl)propionate (114 mg, 0.28 mol) was dissolved in anhydrous dichloromethane (10 mL) and Et3N (3.0 eq) and N,N-dimethyl 2-chloroacetamide (3.0 eq) were added. The reaction mixture was refuxed at 50° C. for 4 hours. The solvent was then evaporated under reduced pressure and the crude material was purified by column chromatography (silica gel; CHCl3/MeOH 9:1) to afford the title compound.

reactant | Methyl 2-(3-Methoxycarbonyladamant-1-ylcarbonylamino)-3-(piperazin-1-yl)propionate | 0.28 mol, 114 mg | COC(=O)C12CC3(CC(CC(C1)C3)C2)C(=O)NC(C(=O)OC)CN2CCNCC2 | C21H33N3O5
reactant | Et3N | 3.0 eq | CCN(CC)CC | C6H15N
reactant | N,N-dimethyl 2-chloroacetamide | 3.0 eq | CN(C(CCl)=O)C | C4H8ClNO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | Methyl 2-(3-Methoxycarbonyladamant-1-ylcarbonylamino)-3-[4-(N,N-dimethylaminocarbonylmethyl)piperazin-1-yl]propionate | COC(=O)C12CC3(CC(CC(C1)C3)C2)C(=O)NC(C(=O)OC)CN2CCN(CC2)CC(=O)N(C)C | C25H40N4O6
